US05478832
15 ml of pyridne were added to 2.05 g (7.82 mmol) of 2-(6-methylquinolin-2-yl)benzamide obtained in Reference Example 7 and the mixture was stirred. Then, 1.49 g (7.82 mmol) of p-toluenesulfonyl chloride were added thereto and stirred at room temperature for 2 hours. After further stirring the mixture at 40° C. for 2 hours, the reaction mixture was poured into 30 ml of water and extracted with 50 ml of methylene chloride. The resulting extract was dried over magnesium sulfate followed by filtration. The filtrate was concentrated and the concentrate was subjected to silica gel chromatography using a mixed solvent of hexane and ethyl acetate (7/1) to obtain 0.86 g of 2-(6-methylquinolin-2-yl)benzonitrile.

reactant | 2-(6-methylquinolin-2-yl)benzamide | 7.82 mmol, 2.05 g | CC=1C=C2C=CC(=NC2=CC1)C1=C(C(=O)N)C=CC=C1 | C17H14N2O
reactant | p-toluenesulfonyl chloride | 7.82 mmol, 1.49 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 30 ml | O | H2O
product | 2-(6-methylquinolin-2-yl)benzonitrile | 0.86 g | CC=1C=C2C=CC(=NC2=CC1)C1=C(C#N)C=CC=C1 | C17H12N2
